US09422307B2
N-(3-(4-amino-2-(6-(4-ethylpiperazin-1-yl)pyridin-3-ylamino)thieno[3,2-d]pyrimidin-7-yl)phenyl)methanesulfonamide
The target compound of Example 27 (22 mg, 74% yield) was prepared in the same manner as Step 9 of Example 1 using N-(3-(4-amino-2-chlorothieno[3,2-d]pyrimidin-7-yl)phenyl)methanesulfonamide (20 mg, 0.056 mmol) and 6-(4-ethylpiperazin-1-yl)pyridin-3-amine (31 mg, 0.17 mmol).

reactant | N-(3-(4-amino-2-chlorothieno[3,2-d]pyrimidin-7-yl)phenyl)methanesulfonamide | 0.056 mmol, 20 mg | NC=1C2=C(N=C(N1)Cl)C(=CS2)C=2C=C(C=CC2)NS(=O)(=O)C | C13H11ClN4O2S2
reactant | 6-(4-ethylpiperazin-1-yl)pyridin-3-amine | 0.17 mmol, 31 mg | C(C)N1CCN(CC1)C1=CC=C(C=N1)N | C11H18N4
product | N-(3-(4-amino-2-(6-(4-ethylpiperazin-1-yl)pyridin-3-ylamino)thieno[3,2-d]pyrimidin-7-yl)phenyl)methanesulfonamide | 22 mg, 74% yield | NC=1C2=C(N=C(N1)NC=1C=NC(=CC1)N1CCN(CC1)CC)C(=CS2)C=2C=C(C=CC2)NS(=O)(=O)C | C24H28N8O2S2
